US07368461B2
2d. [1,4]Bipiperidinyl-2-thione
Anisole (2.5 mL) was added to a solution of 2-thioxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester (2.4 g) in methylene chloride (40 mL) at 0° C. followed by the addition of trifluorosulfonic acid (3.4 mL). After 30 minutes, solid potassium carbonate was added, then sodium sulfate and methanol. The solids were removed by filtration and the filtrate was concentrated. The residue was dissolved in methanol and neutralized by passage through a column of Amberlyst A-21 (slightly basic) resin. The filtrate was collected and concentrated and purified by chromatography, with methylene chloride:methanol (gradient 95:5, 90:10) as eluent. The title compound was obtained as a white solid (0.93 g). MS: m/z=199 (M+H).

reactant | Anisole | 2.5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | 2-thioxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester | 2.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(CCCC1)=S | C18H24N2O2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | [1,4]Bipiperidinyl-2-thione | N1(C(CCCC1)=S)C1CCNCC1 | C10H18N2S
